US03950393
N-(2-Amino-5-methoxy-benzyl)-morpholine was prepared from 2-amino-5-methoxy-benzyl alcohol, thionyl chloride and morpholine analogous to Example 1. Proof of structure by IR- and UV-spectra. IR-spectrum (methylenechloride):

reactant | 2-amino-5-methoxy-benzyl alcohol | NC1=C(CO)C=C(C=C1)OC | C8H11NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | N-(2-Amino-5-methoxy-benzyl)-morpholine | NC1=C(CN2CCOCC2)C=C(C=C1)OC | C12H18N2O2
